US07375099B2
b) 2-Methyl-N-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-N′-(3-trifluoromethyl-benzyl)-malonamide
The title compound, MS: m/e=496.3 (M+H+), was prepared in analogy to example 16 from 7-amino-5-methyl-5H,7H-dibenzo[b,d]azepin-6-one and 2-methyl-N-(3-trifluoromethyl-benzyl)-malonamic acid.

reactant | 7-amino-5-methyl-5H,7H-dibenzo[b,d]azepin-6-one | NC1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2 | C15H14N2O
reactant | 2-methyl-N-(3-trifluoromethyl-benzyl)-malonamic acid | CC(C(=O)O)C(=O)NCC1=CC(=CC=C1)C(F)(F)F | C12H12F3NO3
product | 2-Methyl-N-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-N′-(3-trifluoromethyl-benzyl)-malonamide | CC(C(=O)NC1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2)C(=O)NCC2=CC(=CC=C2)C(F)(F)F | C27H24F3N3O3
